US04544658
A mixture of 1.7 g (0.005 mol) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(3-methyl-1-piperazinyl)quinoline-3-carboxylic acid, 1.7 g (0.011 mol) of ethyl iodide and 1.1 g of triethylamine in 20 ml of DMF is heated at 80° C. for 3 hours. The solution is evaporated in vacuo, the crystalline residue is stirred thoroughly with 10 ml of water and the undissolved product is recrystallised from methanol. 0.6 g (32% of theory) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-ethyl-3-methyl-1-piperazinyl)quinoline-3-carboxylic acid hydriodide monohydrate, with a decomposition point of 285°-288° C., is obtained.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(3-methyl-1-piperazinyl)quinoline-3-carboxylic acid | 0.005 mol, 1.7 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C)F)=O)C(=O)O | C18H20FN3O3
reactant | ethyl iodide | 0.011 mol, 1.7 g | C(C)I | C2H5I
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-ethyl-3-methyl-1-piperazinyl)quinoline-3-carboxylic acid hydriodide monohydrate | 0.6 g, 32% | O.I.C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(N(CC1)CC)C)F)=O)C(=O)O | InChI=1S/C20H24FN3O3.HI.H2O/c1-3-22-6-7-23(10-12(22)2)18-9-17-14(8-16(18)21)19(25)15(20(26)27)11-24(17)13-4-5-13;;/h8-9,11-13H,3-7,10H2,1-2H3,(H,26,27);1H;1H2
